** sch_path: /workspace/Probton/Analog/schematics/1_readout/tia/B18_TIA_OTA.sch
.subckt B18_TIA_OTA Vp Vn Vout VDD VSS Ib en_b
*.PININFO Vp:I Vn:I Vout:O VDD:B VSS:B Ib:I en_b:I
MP_MIR_NEG Vout net1 VDD VDD pfet_03v3 L=0.5u W=64u nf=8
MP_MIR_POS net1 net1 VDD VDD pfet_03v3 L=0.5u W=64u nf=8
MN_IN_POS net1 Vp net2 VSS nfet_03v3 L=0.5u W=20u nf=4
MN_IN_NEG Vout Vn net2 VSS nfet_03v3 L=0.5u W=20u nf=4
MN_TAIL net2 Ib VSS VSS nfet_03v3 L=0.5u W=40u nf=8
MN_TAILMIR Ib Ib VSS VSS nfet_03v3 L=0.5u W=40u nf=8
MN_SWITCH Ib en_b VSS VSS nfet_03v3 L=0.5u W=1u nf=1
MP_MIR_dummy net1 VDD VDD VDD pfet_03v3 L=0.5u W=8u nf=1 m=2
MN_TAILdummy Ib VSS VSS VSS nfet_03v3 L=0.5u W=5u nf=1 m=2
MN_IN_dummy net1 VSS VSS VSS nfet_03v3 L=0.5u W=5u nf=1 m=2
MN_SWITCH_Ldummy Ib VSS VSS VSS nfet_03v3 L=0.5u W=1u nf=1
MN_SWITCH_Rdummy VSS VSS VSS VSS nfet_03v3 L=0.5u W=1u nf=1
**** begin user architecture code


* B18_TIA_OTA

* Original Design Specifications:
  * gm_id for all transistors is 12 V^-1 (moderate inversion)
  * C_L = 2pF
  * GBW = 50MHz
  * L = 0.5um

* Results using pygmid:

*             MN_TAIL  MN_IN   MP_MIR

*  W(um)      38.5     19.25   66.52
*  nf@W=5um   8        4       14
*  Id(uA)     105      52.4    52.4



* The enable signal is a simple NMOS gate pulldown transistor
* placed at the tail current mirror. Assuming a digital signal
* of 3.3V is present, the active-low switch will turn off the
* current mirror


**** end user architecture code
.ends
